### PR TITLE
[Merged by Bors] - feat(GroupTheory/Cyclic): formula for the card & index of kernel & range of powMonoidHom on a cyclic group

### PR DESCRIPTION
**Pull request by xroblot**
We prove formula for the cardinal and index of the kernel and range of `powMonoidHom : x ↦ x ^ d` on a finite cyclic group.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Index.lean [hunk 1]
```diff
@@ -588,6 +588,13 @@ instance finiteIndex_normalCore [H.FiniteIndex] : H.normalCore.FiniteIndex := by
   rw [normalCore_eq_ker]
   infer_instance
 
+@[to_additive]
+theorem index_range {G : Type*} [Group G] {f : G →* G} [hf : f.ker.FiniteIndex] :
+    f.range.index = Nat.card f.ker := by
+  suffices f.range.index * f.ker.index = Nat.card f.ker * f.ker.index by
+    simpa [mul_eq_mul_right_iff, hf.finiteIndex, or_false] using this
+  rw [card_mul_index f.ker, index_ker, mul_comm, card_mul_index]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean:596]:
```suggestion
  rw [← mul_left_inj' hf.finiteIndex, card_mul_index, index_ker, index_mul_card]
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 2]
```diff
@@ -780,6 +780,47 @@ theorem IsCyclic.card_mulAut [Group G] [Finite G] [h : IsCyclic G] :
...
 
+section powMonoidHom
+
+variable (G)
+
+-- Note. Even though cyclic groups only require `[Group G]`, we need `[CommGroup G]` for
+-- `powMonoidHom` to be defined.
+
+@[to_additive]
+theorem IsCyclic.card_powMonoidHom_range [CommGroup G] [IsCyclic G] [Fintype G] (d : ℕ) :
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Thanks for the review. I changed to `Finite G` and `Nat.card G`. However, I do not think I can drop the finiteness assumption though since, for example, an infinite group can have a finite index.

[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: (In any case, I was not able to do remove it.)

File: Mathlib/GroupTheory/Index.lean [hunk 3]
```diff
@@ -616,6 +616,11 @@ instance finiteIndex_normalCore [H.FiniteIndex] : H.normalCore.FiniteIndex := by
   rw [normalCore_eq_ker]
   infer_instance
 
+@[to_additive]
+theorem index_range {G : Type*} [Group G] {f : G →* G} [hf : f.ker.FiniteIndex] :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean:620]:
```suggestion
theorem index_range {f : G →* G} [hf : f.ker.FiniteIndex] :
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 4]
```diff
@@ -781,6 +781,46 @@ theorem IsCyclic.card_mulAut [Group G] [Finite G] [h : IsCyclic G] :
...
+-- `powMonoidHom` to be defined.
+
+@[to_additive]
+theorem IsCyclic.card_powMonoidHom_range [CommGroup G] [IsCyclic G] [Finite G] (d : ℕ) :
+    Nat.card (powMonoidHom d : G →* G).range = Nat.card G / (Nat.card G).gcd d := by
+  obtain ⟨g, h⟩ := exists_zpow_surjective G
+  have : (powMonoidHom d).range = Subgroup.zpowers (g ^ d) := by
+    rw [show g ^ d = powMonoidHom d g by rfl, ← MonoidHom.map_zpowers,
+      (Subgroup.eq_top_iff' (Subgroup.zpowers g)).mpr h,  ← MonoidHom.range_eq_map]
+  rw [this, Nat.card_zpowers, orderOf_pow, orderOf_eq_card_of_forall_mem_zpowers h]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:798]: Here's a golf. And I wonder if we should have a lemma `orderOf_eq_card_of_zpowers_eq_top`?
```suggestion
  obtain ⟨g, h⟩ := isCyclic_iff_exists_zpowers_eq_top.mp hG
  rw [MonoidHom.range_eq_map, ← h, MonoidHom.map_zpowers, Nat.card_zpowers, powMonoidHom_apply,
    orderOf_pow, orderOf_eq_card_of_forall_mem_zpowers fun g ↦ h.ge (Subgroup.mem_top g)]
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 5]
```diff
@@ -781,6 +781,46 @@ theorem IsCyclic.card_mulAut [Group G] [Finite G] [h : IsCyclic G] :
...
+theorem IsCyclic.card_powMonoidHom_ker [CommGroup G] [hG : IsCyclic G] [Finite G] (d : ℕ) :
+    Nat.card (powMonoidHom d : G →* G).ker = (Nat.card G).gcd d := by
+  have h₁ : Nat.card G ≠ 0 := Nat.card_ne_zero.mpr ⟨inferInstance, inferInstance⟩
+  have h₂ : ↑(Nat.card G / (Nat.card G).gcd d) ≠ (0 : ℚ) := by
+    exact Nat.cast_ne_zero.mpr <|
+      Nat.div_ne_zero_iff.mpr ⟨Nat.gcd_ne_zero_left h₁, Nat.gcd_le_left d Nat.card_pos⟩
+  have := Subgroup.card_mul_index (powMonoidHom d : G →* G).ker
+  rwa [index_powMonoidHom_ker, ← Nat.cast_inj (R := ℚ), Nat.cast_mul, ← eq_div_iff h₂,
+    ← Nat.cast_div (Nat.div_dvd_of_dvd (Nat.gcd_dvd_left _ _)) h₂,
+    Nat.div_div_self (Nat.gcd_dvd_left _ _) h₁, Nat.cast_inj] at this
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:815]:
```suggestion
  have h : (powMonoidHom d : G →* G).ker.index ≠ 0 := Subgroup.index_ne_zero_of_finite
  rw [← mul_left_inj' h, Subgroup.card_mul_index, index_powMonoidHom_ker, Nat.mul_div_cancel']
  exact Nat.gcd_dvd_left (Nat.card G) d
```

**Review by tb65536 — APPROVED** [review]

**Comment by tb65536** [comment]
maintainer merge

**Comment by xroblot** [comment]
@tb65536 Sorry, I didn't have time to post a comment before but thank you for the review and the great golf.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
